US04051248
A. 2-[(Diethylamino)methyl]-3,4-dihydro-1(2H)-naphthalenone, hydrochloride (1:1)
α-Tetralone (292 g), diethylamine hydrochloride (240 g) and 37% aqueous formaldehyde (220 g) are combined and heated on a steam bath with stirring for 1 hour. The reaction mixture is cooled to 25° C and washed with three 120 ml portions of ether. The aqueous layer is made alkaline with concentrated ammonium chloride and extracted with chloroform. The chloroform is removed under vacuum and the residue taken up in ether. The resulting solution is treated with excess ethereal hydrogen chloride, producing an insoluble gum. The ether is decanted and the gum repeatedly scratched against the walls of the beaker to initiate a slow crystallization. The mass is allowed to stand overnight during which period crystallization is completed. The resulting solid mass is pulverized and washed with a minimal amount of ethanol. The mixture is filtered and the filter cake is stirred slowly in ether. The solid material is filtered off and dried for 4 hours at 25° C (0.1 mm of mercury) to yield 200 g of the title compound that melts beginning anywhere from 127° C to 135° C, depending on the rate of heating.

reactant | α-Tetralone | 292 g | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | diethylamine hydrochloride | 240 g | Cl.C(C)NCC
reactant | formaldehyde | 220 g | C=O | CH2O
product | 2-[(Diethylamino)methyl]-3,4-dihydro-1(2H)-naphthalenone, hydrochloride | 200 g | Cl.C(C)N(CC)CC1C(C2=CC=CC=C2CC1)=O | InChI=1S/C15H21NO.ClH/c1-3-16(4-2)11-13-10-9-12-7-5-6-8-14(12)15(13)17;/h5-8,13H,3-4,9-11H2,1-2H3;1H
